US07825244B2
2-Hydroxy-1-[4-(4-piperidin-4-yl-quinazolin-7-yl)-piperazin-1-yl]-ethanone
4-(7-Piperazin-1-yl-quinazolin-4-yl)-piperidine-1-carboxylic acid tert-butyl ester (0.1 mmol), prepared as described in Example 45, was added to a mixture of t-butoxyacetic acid (0.15 mmol) and PS-carbodiimide (0.2 mmol) in anhydrous DCM (2 mL). The mixture was shaken at rt overnight. It was then filtered and the resin washed with DCM. The combined filtrate and washings were concentrated in vacuo. To this was then added 3M HCl/MeOH (2 mL) and stirred at rt for 2 h and then concentrated in vacuo.

reactant | 4-(7-Piperazin-1-yl-quinazolin-4-yl)-piperidine-1-carboxylic acid tert-butyl ester | 0.1 mmol | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=NC=NC2=CC(=CC=C12)N1CCNCC1 | C22H31N5O2
reactant | t-butoxyacetic acid | 0.15 mmol | C(C)(C)(C)OCC(=O)O | C6H12O3
reactant | carbodiimide | 0.2 mmol | N=C=N | CH2N2
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | 2-Hydroxy-1-[4-(4-piperidin-4-yl-quinazolin-7-yl)-piperazin-1-yl]-ethanone | OCC(=O)N1CCN(CC1)C1=CC=C2C(=NC=NC2=C1)C1CCNCC1 | C19H25N5O2
